US08222416B2
A mixture of 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (150 mg, 0.35 mmol) and 10% palladium on activated carbon (45 mg) in methanol (300 mL) was heated at 50° C. under hydrogen (50 bar) for 5 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo to afford 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (110 mg, 73%) which was used in the next step without further purification: LC/MS m/e calcd for C22H25N3O4S [M+H]+ 428.53, observed 427.9.

reactant | 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 0.35 mmol, 150 mg | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C=2C=NC(=CC2)S(=O)(=O)C | C22H23N3O4S
catalyst | palladium on activated carbon | 45 mg | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 110 mg, 73% | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C=2C=NC(=CC2)S(=O)(=O)C | C22H25N3O4S
